US04689338
Using the method of Example 1, benzylamine and 4-chloro-3-nitroquinoline were reacted to provide 4-benzylamino-3-nitroquinoline. The structural assignment for the crude product (m.p. 178°-196° C.) was supported by infrared spectral analysis.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
product | 4-benzylamino-3-nitroquinoline | C(C1=CC=CC=C1)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C16H13N3O2
